US07951805B2
SYNTHESIS OF 6-[4-(3,3-DIFLUORO-2-OXO-2,3-DIHYDROINDOL-1-YL)PIPERIDIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID PENTYLAMIDE)
Following the procedure as described in Example 2, making variations only as required to use 6-chloropyridazine-3-carboxylic acid pentylamide in place of 6-chloropyridazine-3-carboxylic acid (3-cyclopropylpropyl)amide to react with 3,3-difluoro-1-piperidin-4-yl-1,3-dihydroindol-2-one, the title compound was obtained as a white powder in 65% yield (0.063 g). m.p. 100-102° C. 1H NMR (300 MHz, CDCl3) δ 8.03 (d, J=9.6 Hz, 2H), 7.92 (br, 1H), 7.54 (m, 1H), 7.41 (t, J=8.1 Hz, 1H), 7.14 (t, J=7.5 Hz, 1H), 7.04 (d, J=9.3 Hz), 6.95 (d, J=7.8 Hz, 1H), 4.70 (m, 2H), 4.41 (m, 1H), 3.50 (m, 2H), 3.12 (t, J=12.3 Hz, 2H), 2.45 (m, 2H), 1.94 (m, 2H), 1.60 (m, 2H), 1.34 (m, 4H), 0.88 (t, J=6.6 Hz, 3H). 13C NMR (75 MHz, CDCl3) δ 165.2, 164.8, 163.1, 159.8, 145.0, 142.5 142.4, 133.5, 127.1, 125.2, 123.8, 120.7, 120.4, 120.1, 113.6, 112.4, 110.8, 110.3, 107.0, 50.9, 44.7, 39.4, 29.3, 29.1, 27.8, 22.4, 14.0. MS (ES+) m/z 444.1 (M+1).

reactant | 6-chloropyridazine-3-carboxylic acid pentylamide | C(CCCC)NC(=O)C=1N=NC(=CC1)Cl | C10H14ClN3O
reactant | 3,3-difluoro-1-piperidin-4-yl-1,3-dihydroindol-2-one | FC1(C(N(C2=CC=CC=C12)C1CCNCC1)=O)F | C13H14F2N2O
product | 6-[4-(3,3-DIFLUORO-2-OXO-2,3-DIHYDROINDOL-1-YL)PIPERIDIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID PENTYLAMIDE | 65% yield | C(CCCC)NC(=O)C=1N=NC(=CC1)N1CCC(CC1)N1C(C(C2=CC=CC=C12)(F)F)=O | C23H27F2N5O2
